US05118686
4-Ethyl-6-hydroxy-2-(2-propoxyphenyl)pyrimidine
A solution of ethyl propionylacetate (0.79 g), 2-propoxybenzamidine methanesulphonate (1.45 g) and sodium hydroxide (0.60 g) in water (5 ml) and ethanol (5 ml) was stirred at ambient temperature for 22 hours. Most of the solvent was removed under reduced pressure and water (20 ml) was added. The mixture was acidified to pH 2 with concentrated hydrochloric acid and then extracted with chloroform (3×30 ml). the combined extracts were washed with dilute acetic acid, dried (magnesium sulphate) and evaporated under reduced pressure to yield a residue which was recrystallised twice from ether to yield the title compound, 373 mg, m.p. 97°-98.5° C.

reactant | ethyl propionylacetate | 0.79 g | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | 2-propoxybenzamidine methanesulphonate | 1.45 g | CS(=O)(=O)O.C(CC)OC1=C(C(=N)N)C=CC=C1
reactant | sodium hydroxide | 0.60 g | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-Ethyl-6-hydroxy-2-(2-propoxyphenyl)pyrimidine | C(C)C1=NC(=NC(=C1)O)C1=C(C=CC=C1)OCCC | C15H18N2O2
